US06391887B1
7-Nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione
7-Nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one (91 mg, 0.30 mmol) is stirred with Lawesson's reagent (170 mg, 0.43 mmol) for 6 hours at room temperature. The batch is concentrated by evaporation in a vacuum, and the residue is purified on silica gel with toluene: 52 mg (54%) of product.

reactant | 7-Nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.30 mmol, 91 mg | [N+](=O)([O-])C=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C12H12N2O3
reactant | Lawesson's reagent | 0.43 mmol, 170 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 7-Nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | [N+](=O)([O-])C=1C=CC=2C3C(C(NC2C1)=S)CCC3 | C12H12N2O2S
